US07781435B2
3-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoylamino]-imidazol-1-yl}-3-methyl-butyric acid methyl ester
3-Methyl-3-(4-nitro-imidazol-1-yl)-butyric acid methyl ester was reduced and coupled with 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid to afford the title compound; MS 463.5 m/z (M+1).

reactant | 3-Methyl-3-(4-nitro-imidazol-1-yl)-butyric acid methyl ester | COC(CC(C)(N1C=NC(=C1)[N+](=O)[O-])C)=O | C9H13N3O4
reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)CCC | C15H19F2NO2
product | 3-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoylamino]-imidazol-1-yl}-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O)=O | C24H32F2N4O3
